US08957203B2
To a solution of (3R)-ethyl 2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoate (20 g, 0.061 moles) in THF/water (200 mL, 1:1) was added methanol (60 mL) followed by LiOH (7.7 g, 0.183 moles) at room temperature. The reaction mass was stirred at room temperature overnight. The solution was concentrated under reduced pressure and the residue was diluted with water (200 mL). The aqueous solution was acidified with aqueous 1.5 N HCl solution to pH ˜3 and extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and concentrated under reduce pressure to get crude compound. The crude compound was purified by column chromotography (Silica gel, 3% methanol in DCM) to get 12.4 g (68%) of (3R)-2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoic acid as gummy liquid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.4 (sb, 1H), 6.92-6.85 (m, 1H), 5.81-5.75 (m, 1H), 5.04-4.93 (m, 2H), 4.12-3.91 (m, 1H), 2.18-1.98 (m, 4H), 1.5 (s, 9H), 1.35-1.02 (m, 3H), 0.98-0.85 (m, 6H).

reactant | (3R)-ethyl 2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoate | 0.061 moles, 20 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C | C18H33NO4
reactant | methanol | 60 mL | CO | CH4O
reactant | LiOH | 0.183 moles, 7.7 g | [Li+].[OH-]
solvent | THF water | 200 mL | C1CCOC1.O
product | (3R)-2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoic acid | 12.4 g, 68% | C(C)(C)(C)OC(=O)NC(C(=O)O)[C@@H](CC(CCC=C)C)C | C16H29NO4
